US07022677B1
N-(3-Amino-2-hydroxypropyl)phthalimide hydrochloride. 10
To ethanol solution (240 ml) of N-(3-azido-2-hydroxypropyl)phthalimide 10 g (40.3 mol), 10% Pd—C (1 g) and concentrated hydrochloric acid solution 7.84 ml (80.6 mmol) were added sequentially. To the reaction mixture, hydrogen was introduced at 2 kgf/cm2 atm. and hydrogenated at room temperature for 6 hours. After removal of catalyst by filtration, catalyst was washed with EtOH/DMF (1:1) solution (300 ml) and then combined filtrate was evaporated to dryness. Addition of EtOH to the residue gave crystal of desired product as hydrogen chloride salt. Crystal was collected by filtration and dried under reduced pressure at 40° C. to afford 5.3 g of the product. The NMR spectra were consistent with the desired title intermediate.

reactant | N-(3-azido-2-hydroxypropyl)phthalimide | 40.3 mol, 10 g | N(=[N+]=[N-])CC(CN1C(C=2C(C1=O)=CC=CC2)=O)O | C11H10N4O3
reactant | hydrochloric acid | 80.6 mmol, 7.84 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Pd—C | 1 g | [Pd] | Pd
solvent | ethanol | 240 ml | C(C)O | C2H6O
product | N-(3-Amino-2-hydroxypropyl)phthalimide hydrochloride | Cl.NCC(CN1C(C=2C(C1=O)=CC=CC2)=O)O | InChI=1S/C11H12N2O3.ClH/c12-5-7(14)6-13-10(15)8-3-1-2-4-9(8)11(13)16;/h1-4,7,14H,5-6,12H2;1H
